US08729095B2
To a dichloromethane (377 ml) solution of ethyl (2E)-3-(3-amino-5-chloropyridin-2-yl)acrylate (37.7 g) and trifluoroacetic acid (12.7 ml) was added tert-butyl 4-oxopiperidine-1-carboxylate (49.7 g). After stirring at room temperature for 15 minutes, sodium triacetoxyborohydride (70.5 g) was added, and stirred at 40° C. for 1.5 hours. After the reaction solution was brought back to room temperature, dichloromethane and a saturated aqueous sodium hydrogen carbonate solution were added and the solution was separated, and the aqueous layer was extracted with dichloromethane. The collected organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was dissolved in methanol (2 ml), and 1.7% palladium-fibroin (10 g) was added, followed by stirring at room temperature for 18 hours under a hydrogen atmosphere. The reaction solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford tert-butyl 4-{[5-chloro-2-(3-ethoxy-3-oxopropyl)pyridin-3-yl]amino}piperidine-1-carboxylate (55.3 g).

reactant | ethyl (2E)-3-(3-amino-5-chloropyridin-2-yl)acrylate | 37.7 g | NC=1C(=NC=C(C1)Cl)/C=C/C(=O)OCC | C10H11ClN2O2
reactant | trifluoroacetic acid | 12.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 49.7 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium triacetoxyborohydride | 70.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 377 ml | ClCCl | CH2Cl2
product | tert-butyl 4-{[5-chloro-2-(3-ethoxy-3-oxopropyl)pyridin-3-yl]amino}piperidine-1-carboxylate | 55.3 g | ClC=1C=C(C(=NC1)CCC(=O)OCC)NC1CCN(CC1)C(=O)OC(C)(C)C | C20H30ClN3O4
